US04447422
(b) 2-Methylamino-4-hydroxypyrimidine-5-carboxylic acid
2-Methylamino-5-ethoxycarbonyl-4-hydroxypyrimidine (360 mg 1.9 mmol) was hydrolysed in boiling water (10 ml) with NaOH (0.19 g, 4.7 mmol) for 2 h. Cooling and acidification to pH 2 yielded the named product as a precipitate (261 mg, 80%).

reactant | 2-Methylamino-5-ethoxycarbonyl-4-hydroxypyrimidine | 1.9 mmol, 360 mg | CNC1=NC=C(C(=N1)O)C(=O)OCC | C8H11N3O3
reactant | NaOH | 4.7 mmol, 0.19 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 2-Methylamino-4-hydroxypyrimidine-5-carboxylic acid | CNC1=NC=C(C(=N1)O)C(=O)O | C6H7N3O3
